US09163021B2
2-(5-bromopyridin-2-yl)-N-(4-{[1-(propan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-2-yl)acetamide
To a solution of (5-bromopyridin-2-yl)acetic acid (Preparation 83, 92 mg, 0.427 mmol) and (2-aminopyridin-4-yl)(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone (Preparation 20, 120 mg, 0.427 mmol) in THF (3 mL) was added propylphosphonic anhydride (786 uL, 1.281 mmol) and triethylamine (151 uL, 1.99 mmol) and the reaction was stirred at room temperature for 18 hours. The reaction was diluted with EtOAc, washed with saturated aqueous NaHCO3 solution, brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified using preparative TLC eluting with 5% MeOH in DCM to afford the title compound.

reactant | (5-bromopyridin-2-yl)acetic acid | 0.427 mmol, 92 mg | BrC=1C=CC(=NC1)CC(=O)O | C7H6BrNO2
reactant | (2-aminopyridin-4-yl)(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone | 0.427 mmol, 120 mg | NC1=NC=CC(=C1)C(=O)C1=CN(C2=C1C=NC=C2)C(C)C | C16H16N4O
reactant | propylphosphonic anhydride | 1.281 mmol, 786 uL | CCCP(=O)=O | C3H7O2P
reactant | triethylamine | 1.99 mmol, 151 uL | C(C)N(CC)CC | C6H15N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(5-bromopyridin-2-yl)-N-(4-{[1-(propan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-2-yl)acetamide | BrC=1C=CC(=NC1)CC(=O)NC1=NC=CC(=C1)C(=O)C1=CN(C2=C1C=NC=C2)C(C)C | C23H20BrN5O2
